US05041616
Benzoic acid (20 g, 0.16 mole), p-xylene (100 mL), and trifluoromethanesulfonic acid (5 mL) were heated at reflux in a 300 mL flask equipped with a Dean-Stark trap. After 16 hours, the mixture was extracted with 100 mL of 6% aqueous sodium hydroxide, washed with water, dried over magnesium sulfate and evaporated to give 15.4 g (0.073 mole) of 2,5-dimethylbenzophenone. The aqueous sodium hydroxide extract was acidified to give 8.1 g (0.066 mole) of unreacted benzoic acid.

reactant | Benzoic acid | 0.16 mole, 20 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | trifluoromethanesulfonic acid | 5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | p-xylene | 100 mL | CC=1C=CC(=CC1)C | C8H10
product | 2,5-dimethylbenzophenone | 0.073 mole, 15.4 g | CC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C15H14O
